US04387238
Following the procedure of Example 1, monoallyl potassium epoxysuccinate (2.1 g) was successively treated with oxalyl chloride (1.26 g) and aniline (1.86 g) to give 1.24 g of allyl N-phenyl-2,3-epoxysuccinamate (Compound No. 30) as colorless needles melting at 32° C.

reactant | monoallyl potassium epoxysuccinate | 2.1 g | O1C(C(=O)O)C1C(=O)O.C(C=C)[K]
reactant | oxalyl chloride | 1.26 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | aniline | 1.86 g | NC1=CC=CC=C1 | C6H7N
product | allyl N-phenyl-2,3-epoxysuccinamate | 1.24 g | C1(=CC=CC=C1)NC(C1C(C(=O)OCC=C)O1)=O | C13H13NO4
